Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left ankle injury
 
Major Surgical or Invasive Procedure:
___ I&D and ORIF Left Ankle

 
History of Present Illness:
___ in her USOH until the day prior to presentation when she was
ambulating about her house when her L foot became caught beneath
her couch.  She fell to the ground, twisting around her ankle 
and
noted immediate pain, inability to bear weight and exposed bone
at 2030.  She was taken to her local hospital, where she was
given Tetanus and Ancef, her ankle left in-situ and transferred
to ___ for definitive care. She denies other injuries or
complaints.  Last PO ___ on the day prior to consult. 
 
Past Medical History:
Anxiety, HTN

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
AVSS
NAD
AAOx3

LEFT LOWER EXTREMITY:
Splint c/d/i with well-padded dressing in place
Extremity without obvious deformity
No skin tenting, or lesions indicative of open fracture
___ FHL ___ TA PP Fire
SILT LFCN, PFCN, Obturator, Saphenous, Sural, DP, SP, Plantar
2+ DP, ___ pulses; foot warm, well-perfused
Compartments soft (thigh, leg, foot)
Minimal pain to passive stretch of toes
No noted knee effusion

 
Pertinent Results:
___ 01:30AM   GLUCOSE-112* UREA N-16 CREAT-0.6 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-26 ANION GAP-13
___ 01:30AM   WBC-5.9 RBC-3.74* HGB-12.4 HCT-36.6 MCV-98 
MCH-33.2* MCHC-33.9 RDW-12.2
___ 01:30AM   PLT COUNT-193
___ 01:30AM   ___ PTT-27.7 ___

ANKLE XRAY ___:  Pre-reduction films reviewed from OSH with 
displaced bimalleolar fracture, not available for further 
review.  Post-reduction and post/intra-op films with good 
alignment.
 
Brief Hospital Course:
Ms. ___ was admitted to the Orthopedic service on ___ for 
left ankle fracture after being evaluated and treated with 
closed reduction in the emergency room.  She underwent open 
reduction internal fixation of the fracture without complication 
on ___. Please see operative report for full details. She was 
extubated without difficulty and transferred to the recovery 
room in stable condition.  In the early post-operative course 
she did well and was transferred to the floor in stable 
condition. 
She progressed well, tolerated PO intake and was transitioned to 
PO pain medication.
She had adequate pain management and worked with physical 
therapy while in the hospital.  The remainder of her hospital 
course was uneventful and she is being discharged to 
home/services/rehab in stable condition.

 
Medications on Admission:
Citalopram unknown dose, Atenolol 25 mg PO QD

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for Pain for 2 weeks.
Disp:*50 Tablet(s)* Refills:*0*
2. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous QPM (once a day (in the evening)) for 2 weeks: 40mg 
each night for 2 weeks.
Disp:*15 syringe* Refills:*0*
3. cephalexin 250 mg Tablet Sig: One (1) Tablet PO four times a 
day for 7 days.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left bimalleolar ankle fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Wound Care:
- Keep Incision clean and dry.
- Keep pin sites clean and dry.
- You can get the wound wet or take a shower starting from 7 
days after surgery, but no baths or swimming for at least 4 
weeks.
- Dry sterile dresssing may be changed daily.  No dressing is 
needed if wound continues to be non-draining.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
Activity:
- Continue to be non weight bearing on your left leg
- You should not lift anything greater than 5 pounds.
- Elevate left leg to reduce swelling and pain.
- Do not remove splint.  Keep splint dry.
Other Instructions
- Resume your regular diet.
- Avoid nicotine products to optimize healing.
- Resume your home medications. Take all medications as 
instructed.
- Continue taking the Lovenox to prevent blood clots.
- You have also been given Additional Medications to control 
your pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___ 2. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.
- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.
- If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
NWB LLE, ROMAT
Activity as tolerated
Treatments Frequency:
suture/staple removal at 2 week follow up appointment
Wound care, dressings PRN
Splint in place at all times, elevate LLE
___, encourage OOB and IS.
 
Followup Instructions:
___